US07776864B2
Step 1: 6-phenylpyrazolo[1,5-a]pyrimidine-5,7-diol
A solution of 9 g 3-amino pyrazole and 25.6 g diethyl phenylmalonate in N,N-dibutylbutan-1-amine is stirred at 185° C. over night. The reaction mixture consists of two layers after cooling to room temperature. The top layer is removed and the lower layer is diluted with dichloromethane and methanol. The resulting solution is concentrated and extracted with a mixture of diethyl ether and 10% w/w NaOH solution. The organic layer is discarded and aqueous layer acidified with concentrated HCl. The precipitated product is collected by filtration.

reactant | 3-amino pyrazole | 9 g | NC1=NNC=C1 | C3H5N3
reactant | diethyl phenylmalonate | 25.6 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
solvent | N,N-dibutylbutan-1-amine | C(CCC)N(CCCC)CCCC | C12H27N
product | 6-phenylpyrazolo[1,5-a]pyrimidine-5,7-diol | C1(=CC=CC=C1)C=1C(=NC=2N(C1O)N=CC2)O | C12H9N3O2
